US07238689B2
A solution of 5.76 g (21.3 mmoles) of 5-bromo-4-ethoxy-6-trifluoromethylpyrimidine dissolved in 250 ml of THF was cooled to −78° C. Thereto was dropwise added 22.6 ml of n-butyllithium (a 1.6 moles/liter n-hexane solution, 36.1 mmoles). The mixture was stirred for 40 minutes. Thereto was added 2.7 g (45.1 mmoles) of methyl formate. The resulting mixture was stirred for 1.5 hours to give rise to a reaction. After the completion of the reaction, an aqueous ammonium chloride solution was added. The mixture was extracted with diethyl ether. The resulting organic layer was washed with an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein. The residue was purified by silica gel column chromatography (developing solvent: hexane-ethyl acetate mixed solvent) to obtain 3.82 g (yield:. 81.6%) of 4-ethoxy-6-trifluoromethylpyrimidine-5-carboaldehyde.

reactant | 5-bromo-4-ethoxy-6-trifluoromethylpyrimidine | 21.3 mmoles, 5.76 g | BrC=1C(=NC=NC1C(F)(F)F)OCC | C7H6BrF3N2O
reactant | n-butyllithium | 22.6 ml | C(CCC)[Li]
reactant | methyl formate | 45.1 mmoles, 2.7 g | C(=O)OC | C2H4O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | n-hexane | 1.6 moles/liter | CCCCCC | C6H14
product | 4-ethoxy-6-trifluoromethylpyrimidine-5-carboaldehyde | 3.82 g, 81.6% | C(C)OC1=NC=NC(=C1C=O)C(F)(F)F | C8H7F3N2O2
